US08334236B2
(3) Production of 2-(phenylamino)nicotinaldehyde
6.35 g (31.7 mmol) of (2-phenylamino-3-pyridinyl)methanol was dissolved in chloroform (100 mL), and 8.27 g (95.1 mmol) of manganese dioxide was added thereto. The resulting mixture was stirred for 7 hours at 60° C. The reaction mixture was filtered, and the filtrate was concentrated. Thus, 6.58 g of the title compound was obtained as an orange-colored solid (yield: quantitative).

reactant | (2-phenylamino-3-pyridinyl)methanol | 31.7 mmol, 6.35 g | C1(=CC=CC=C1)NC1=NC=CC=C1CO | C12H12N2O
solvent | chloroform | 100 mL | C(Cl)(Cl)Cl | CHCl3
catalyst | manganese dioxide | 95.1 mmol, 8.27 g | [O-2].[O-2].[Mn+4]
product | 2-(phenylamino)nicotinaldehyde | 6.58 g | C1(=CC=CC=C1)NC1=C(C=O)C=CC=N1 | C12H10N2O
